US05458814
The procedure of Step 2 of Example 1 was followed except that 1,1-diphenyl-2-propyn-1-ol was used in place of 1,1-bis(4-methoxyphenyl)-2-propyn-1-ol and 3-methyl-1-hydroxynaphthalene was used in place of methyl-1,4-dihydroxy-2-naphthoate to produce 2,2-diphenyl-5-methyl-[2H]-naphtho[1,2-b]pyran.

reactant | 1,1-diphenyl-2-propyn-1-ol | C1(=CC=CC=C1)C(C#C)(O)C1=CC=CC=C1 | C15H12O
reactant | 3-methyl-1-hydroxynaphthalene | CC=1C=C(C2=CC=CC=C2C1)O | C11H10O
product | 2,2-diphenyl-5-methyl-[2H]-naphtho[1,2-b]pyran | C1(=CC=CC=C1)C1(C=CC2=C(O1)C1=CC=CC=C1C=C2C)C2=CC=CC=C2 | C26H20O
